US07378418B2
Preparation of (R)-7,8-Bis(4-chlorophenyl)-2-(2-hydroxyhexyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (20 mg, 0.056 mmol), prepared as described in Example 1, in 0.6 mL of DMF was added (R)-(+)-1,2-epoxyhexane (5.6 mg, 0.056 mmol), followed by K2CO3 (15.5 mg, 0.112 mmol). The mixture was heated at 85° C. After stirring overnight, the reaction was allowed to cool to RT The reaction mixture was filtered to remove excess of K2CO3. The collected solution was concentrated under reduced pressure. The crude product was purified using silica gel column chromatography using an automated system, eluting with a gradient of (0% to 60% EtOAc/hexanes for 30 min followed by 60% EtOAc/hexanes to 100% EtOAc for 10 min. The title compound, (R)-7,8-Bis(4-chlorophenyl)-2-(2-hydroxyhexyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (8.3 mg, 32% yield) was obtained as a yellow oil. MS [M+H]+: found 457; 1H NMR (CDCl3, 400 MHz) δ 8.12 (s, 1H), 7.28-7.19 (m, 6H), 7.06-7.02 (m, 2H), 4.13-4.08 (m, 1H), 4.00-3.90 (m, 2H), 1.49-1.24 (m, 6H), 0.83 (t, 3H).

reactant | 7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.056 mmol, 20 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | (R)-(+)-1,2-epoxyhexane | 0.056 mmol, 5.6 mg | O1C[C@H]1CCCC | C6H12O
reactant | K2CO3 | 0.112 mmol, 15.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | (R)-7,8-Bis(4-chlorophenyl)-2-(2-hydroxyhexyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 8.3 mg, 32% yield | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)C[C@@H](CCCC)O)=O)C2=CC=C(C=C2)Cl | C23H22Cl2N4O2
